* source COLLPITS-OSCILLATOR-FINAL-DESIGN
.EXTERNAL OUTPUT Vout_prem
.EXTERNAL OUTPUT Vout_sec
V_V9         N39003 0 5Vdc
X_Qi2         N39267 N39115 N39533 BFP520/INF
C_Cs         N39197 VOUT_SEC  1m  TC=0,0 
R_Rload         0 VOUT_SEC  50 TC=0,0 
V_V11         N39533 0 -5Vdc
X_Qi3         N39197 N39115 N39533 BFP520/INF
R_Ri         N39115 N39003  9.3k TC=0,0 
V_V10         N39243 0 3Vdc
L_Lp         N39107 N39003  1nH  
X_Qm2         N40503 VOUT_PREM N39197 BFP520/INF
R_Rp         N39107 N39003  50k TC=0,0 
C_C1         N39267 N39107  2.5p  TC=0,0 
C_C2         0 N39267  2.5p  TC=0,0 
X_Qi1         N39115 N39115 N39533 BFP520/INF
X_Qm1         N39107 N39243 N39267 BFP520/INF
I_I1         N39267 0 DC 0Adc AC 1Aac 
R_Rc         N40503 N39003  1k TC=0,0 
C_C3         N39107 VOUT_PREM  1m  TC=0,0 
R_Rb1         VOUT_PREM N39003  100k TC=0,0 
R_Rb2         0 VOUT_PREM  80k TC=0,0 
